US08664401B2
Step F) 2-Ethyl-N-hydroxy-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanamide
A solution of hydrochloric acid (0.5 mL, 4.0 M in 1,4-dioxane) was added dropwise to a solution of 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (45 mg, 0.1 mmol) in dichloromethane (0.5 mL) and methanol (0.1 mL) at 0° C. After 2 h, the reaction was concentrated under reduced pressure. The resulting residue was triturated with diethyl ether, filtered, washed with heptane, and dried under reduced pressure to provide an off-white solid (10 mg, 27%). MS (LCMS) m/z 379.5 (M+1). 1H NMR (400 MHz, CDCl3) δ ppm 0.97 (t, J=7.5 Hz, 3H), 1.86-1.95 (m, 1H), 2.31-2.45 (m, 3H), 3.29 (s, 3H), 3.99-4.08 (m 1H), 4.53-4.63 (m, 1H), 6.69 (br d, J=5.6 Hz, 1H), 6.99 (br s, 1H), 7.44-7.49 (m, 4H), 7.55-7.60 (m, 2H).

reactant | hydrochloric acid | 4.0 M, 0.5 mL | Cl | ClH
reactant | 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.1 mmol, 45 mg | C(C)C(C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C23H30N2O6S
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | methanol | 0.1 mL | CO | CH4O
product | 2-Ethyl-N-hydroxy-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanamide | 10 mg, 27% | C(C)C(C(=O)NO)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C18H22N2O5S
